US09399639B2
To a mixture of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.1 g, 0.2 mmol) and Et3N (57 μL, 0.41 mmol) in DMF (1 mL) was added chloromethyl pivalate (35 μL, 0.25 mmol) at rt. The reaction was stirred at rt for 24 h, then concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1 to 1/1) to afford (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl pivalate (30 mg, 23%) and (N-(3-(5-(4-chlorophenyl)-1-((pivaloyloxy)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl) propylsulfonamido) methyl pivalate (20 mg, 13.3%) as white solids. The title compounds were characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.2 mmol, 0.1 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | Et3N | 0.41 mmol, 57 μL | CCN(CC)CC | C6H15N
reactant | chloromethyl pivalate | 0.25 mmol, 35 μL | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl pivalate | 30 mg, 23% | C(C(C)(C)C)(=O)OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | C29H28ClF2N3O5S
